### PR TITLE
[Merged by Bors] - feat(MeasureTheory/Haar): haarScalarFactor lemmas

### PR DESCRIPTION
**Pull request by atarnoam**
- Changed existing proofs of some lemmas to avoid code duplication. Took out some common lines in their proofs and turned them into a lemma.
- `haarScalarFactor \mu \mu = 1`

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Measure/Haar/Unique.lean [hunk 1]
```diff
@@ -294,23 +295,40 @@ lemma haarScalarFactor_pos_of_isOpenPosMeasure (μ' μ : Measure G) [IsFiniteMea
...
+    g_comp g_nonneg g_one
   have := integral_isMulLeftInvariant_eq_smul_of_hasCompactSupport μ' μ g_cont g_comp
   simp only [H, zero_smul, integral_zero_measure] at this
   linarith
 
+@[to_additive addHaarScalarFactor_of_eq_smul]
+lemma haarScalarFactor_of_eq_smul [LocallyCompactSpace G]
+    (μ' μ : Measure G) [IsFiniteMeasureOnCompacts μ] [IsFiniteMeasureOnCompacts μ']
+    [IsMulLeftInvariant μ] [IsMulLeftInvariant μ'] [IsOpenPosMeasure μ]
+    {c : ℝ≥0} (smul_eq : μ' = c • μ) : haarScalarFactor μ' μ = c := by
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Measure/Haar/Unique.lean:310]: Is there a reason not to write this as
```suggestion
    {c : ℝ≥0} : haarScalarFactor (c • μ) μ = c := by
```

Comment (atarnoam) [reply Mathlib/MeasureTheory/Measure/Haar/Unique.lean]: You're right :)
I changed the lemma to `haarScalarFactor (c • μ') μ = c • haarScalarFactor μ' μ` and 
`haarScalarFactor μ μ = 1` is now proved in a different way. These are both `simp`ed so the original lemma shouldn't really exist...
@eric-wieser

File: Mathlib/MeasureTheory/Measure/Haar/Unique.lean [hunk 2]
```diff
@@ -223,19 +224,10 @@ lemma exists_integral_isMulLeftInvariant_eq_smul_of_hasCompactSupport
...
-    simp only [ContinuousMap.coe_mk, Pi.one_apply] at this
-    simp [this]
-  have int_g_pos : 0 < ∫ x, g x ∂μ := by
-    apply (integral_pos_iff_support_of_nonneg g_nonneg _).2
-    · exact IsOpen.measure_pos μ g_cont.isOpen_support ⟨1, g_one⟩
-    · exact g_cont.integrable_of_hasCompactSupport g_comp
+  obtain ⟨⟨g, g_cont⟩, g_comp, g_nonneg, g_one⟩ :
+      ∃ (g : C(G, ℝ)), HasCompactSupport g ∧ 0 ≤ g ∧ g 1 ≠ 0 := exists_continuous_nonneg_pos 1
+  have int_g_pos : 0 < ∫ x, g x ∂μ := g_cont.integral_pos_of_hasCompactSupport_nonneg_nonzero
+    g_comp g_nonneg g_one
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/Haar/Unique.lean:230]:
```suggestion
  obtain ⟨⟨g, g_cont⟩, g_comp, g_nonneg, g_one⟩ :
    ∃ (g : C(G, ℝ)), HasCompactSupport g ∧ 0 ≤ g ∧ g 1 ≠ 0 := exists_continuous_nonneg_pos 1
  have int_g_pos : 0 < ∫ x, g x ∂μ :=
    g_cont.integral_pos_of_hasCompactSupport_nonneg_nonzero g_comp g_nonneg g_one
```
If a proof fits on one line, it's better to have it on one line than two as it's more readable.

File: Mathlib/MeasureTheory/Measure/Haar/Unique.lean [hunk 3]
```diff
@@ -294,23 +295,46 @@ lemma haarScalarFactor_pos_of_isOpenPosMeasure (μ' μ : Measure G) [IsFiniteMea
...
-    simp only [ContinuousMap.coe_mk, Pi.one_apply] at this
-    simp [this]
-  have int_g_pos : 0 < ∫ x, g x ∂μ' := by
-    apply (integral_pos_iff_support_of_nonneg g_nonneg _).2
-    · exact IsOpen.measure_pos μ' g_cont.isOpen_support ⟨1, g_one⟩
-    · exact g_cont.integrable_of_hasCompactSupport g_comp
+  obtain ⟨⟨g, g_cont⟩, g_comp, g_nonneg, g_one⟩ :
+      ∃ g : C(G, ℝ), HasCompactSupport g ∧ 0 ≤ g ∧ g 1 ≠ 0 := exists_continuous_nonneg_pos 1
+  have int_g_pos : 0 < ∫ x, g x ∂μ' := g_cont.integral_pos_of_hasCompactSupport_nonneg_nonzero
+    g_comp g_nonneg g_one
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/Haar/Unique.lean:301]:
```suggestion
  obtain ⟨⟨g, g_cont⟩, g_comp, g_nonneg, g_one⟩ :
    ∃ g : C(G, ℝ), HasCompactSupport g ∧ 0 ≤ g ∧ g 1 ≠ 0 := exists_continuous_nonneg_pos 1
  have int_g_pos : 0 < ∫ x, g x ∂μ' :=
    g_cont.integral_pos_of_hasCompactSupport_nonneg_nonzero g_comp g_nonneg g_one
```

File: Mathlib/MeasureTheory/Measure/Haar/Unique.lean [hunk 4]
```diff
@@ -294,23 +295,46 @@ lemma haarScalarFactor_pos_of_isOpenPosMeasure (μ' μ : Measure G) [IsFiniteMea
...
   linarith
 
+@[to_additive (attr := simp) addHaarScalarFactor_smul]
+lemma haarScalarFactor_smul [LocallyCompactSpace G] (μ' μ : Measure G) [IsFiniteMeasureOnCompacts μ]
+    [IsFiniteMeasureOnCompacts μ'] [IsMulLeftInvariant μ] [IsMulLeftInvariant μ']
+    [IsOpenPosMeasure μ] {c : ℝ≥0} : haarScalarFactor (c • μ') μ = c • haarScalarFactor μ' μ := by
+  obtain ⟨⟨g, g_cont⟩, g_comp, g_nonneg, g_one⟩ :
+      ∃ g : C(G, ℝ), HasCompactSupport g ∧ 0 ≤ g ∧ g 1 ≠ 0 := exists_continuous_nonneg_pos 1
+  have int_g_ne_zero : ∫ x, g x ∂μ ≠ 0 := ne_of_gt
+    (g_cont.integral_pos_of_hasCompactSupport_nonneg_nonzero g_comp g_nonneg g_one)
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/Haar/Unique.lean:313]:
```suggestion
  obtain ⟨⟨g, g_cont⟩, g_comp, g_nonneg, g_one⟩ :
    ∃ g : C(G, ℝ), HasCompactSupport g ∧ 0 ≤ g ∧ g 1 ≠ 0 := exists_continuous_nonneg_pos 1
  have int_g_ne_zero : ∫ x, g x ∂μ ≠ 0 :=
    ne_of_gt (g_cont.integral_pos_of_hasCompactSupport_nonneg_nonzero g_comp g_nonneg g_one)
```

File: Mathlib/MeasureTheory/Measure/Haar/Unique.lean [hunk 5]
```diff
@@ -294,23 +295,46 @@ lemma haarScalarFactor_pos_of_isOpenPosMeasure (μ' μ : Measure G) [IsFiniteMea
...
+
+@[to_additive (attr := simp) addHaarScalarFactor_self_eq_one]
+lemma haarScalarFactor_self_eq_one (μ : Measure G) [IsFiniteMeasureOnCompacts μ]
+    [IsMulLeftInvariant μ] [IsOpenPosMeasure μ] : haarScalarFactor μ μ = 1 := by
+  by_cases hG : LocallyCompactSpace G; swap
+  · simp [haarScalarFactor, hG]
+  obtain ⟨⟨g, g_cont⟩, g_comp, g_nonneg, g_one⟩ :
+      ∃ g : C(G, ℝ), HasCompactSupport g ∧ 0 ≤ g ∧ g 1 ≠ 0 := exists_continuous_nonneg_pos 1
+  have int_g_ne_zero : ∫ x, g x ∂μ ≠ 0 := ne_of_gt
+    (g_cont.integral_pos_of_hasCompactSupport_nonneg_nonzero g_comp g_nonneg g_one)
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/Haar/Unique.lean:331]:
```suggestion
  obtain ⟨⟨g, g_cont⟩, g_comp, g_nonneg, g_one⟩ :
    ∃ g : C(G, ℝ), HasCompactSupport g ∧ 0 ≤ g ∧ g 1 ≠ 0 := exists_continuous_nonneg_pos 1
  have int_g_ne_zero : ∫ x, g x ∂μ ≠ 0 :=
    ne_of_gt (g_cont.integral_pos_of_hasCompactSupport_nonneg_nonzero g_comp g_nonneg g_one)
```

**Review by sgouezel — COMMENTED** [review]
This looks great, thanks!

File: Mathlib/MeasureTheory/Function/LocallyIntegrable.lean [hunk 6]
```diff
@@ -4,6 +4,7 @@ Released under Apache 2.0 license as described in the file LICENSE.
 Authors: Floris van Doorn
 -/
 import Mathlib.MeasureTheory.Integral.IntegrableOn
+import Mathlib.MeasureTheory.Integral.Bochner
```
[the remark this answers is not in the document]
Comment (atarnoam) [reply Mathlib/MeasureTheory/Function/LocallyIntegrable.lean:7]: @sgouezel I looked into it, and I couldn't find another file that is appropriate to these lemmas. I could move them to `Bochner.lean` but I think that would crowd it too much with topological imports. What do you think?

File: Mathlib/MeasureTheory/Function/LocallyIntegrable.lean [hunk 7]
```diff
@@ -415,6 +416,11 @@ theorem ContinuousOn.locallyIntegrableOn [IsLocallyFiniteMeasure μ]
   hf.integrableAt_nhdsWithin hK hx
 #align continuous_on.locally_integrable_on ContinuousOn.locallyIntegrableOn
 
+theorem Continuous.integral_pos_of_integrable_nonneg_nonzero [IsOpenPosMeasure μ] {f : X → ℝ}
+    {x : X} (f_cont : Continuous f) (f_int : Integrable f μ) (f_nonneg : 0 ≤ f) (f_x : f x ≠ 0) :
+    0 < (∫ x, f x ∂μ) := (integral_pos_iff_support_of_nonneg f_nonneg f_int).2
+    (IsOpen.measure_pos μ f_cont.isOpen_support ⟨x, f_x⟩)
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/LocallyIntegrable.lean:422]:
```suggestion
    0 < ∫ x, f x ∂μ :=
  (integral_pos_iff_support_of_nonneg f_nonneg f_int).2
    (IsOpen.measure_pos μ f_cont.isOpen_support ⟨x, f_x⟩)
```
If the proof doesn't fit on one line, it's better to separate it clearly from the statement.

File: Mathlib/MeasureTheory/Function/LocallyIntegrable.lean [hunk 8]
```diff
@@ -471,6 +477,11 @@ theorem Continuous.integrable_of_hasCompactSupport (hf : Continuous f) (hcf : Ha
     hf.continuousOn.integrableOn_compact' hcf (isClosed_tsupport _).measurableSet
 #align continuous.integrable_of_has_compact_support Continuous.integrable_of_hasCompactSupport
 
+theorem Continuous.integral_pos_of_hasCompactSupport_nonneg_nonzero [IsOpenPosMeasure μ]
+    {f : X → ℝ} {x : X} (f_cont : Continuous f) (f_comp : HasCompactSupport f) (f_nonneg : 0 ≤ f)
+    (f_x : f x ≠ 0) : 0 < (∫ x, f x ∂μ) := f_cont.integral_pos_of_integrable_nonneg_nonzero
+    (f_cont.integrable_of_hasCompactSupport f_comp) f_nonneg f_x
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/LocallyIntegrable.lean:483]:
```suggestion
    (f_x : f x ≠ 0) : 0 < ∫ x, f x ∂μ :=
  f_cont.integral_pos_of_integrable_nonneg_nonzero
    (f_cont.integrable_of_hasCompactSupport f_comp) f_nonneg f_x
```

File: Mathlib/MeasureTheory/Measure/Haar/Unique.lean [hunk 9]
```diff
@@ -326,7 +366,7 @@ lemma haarScalarFactor_eq_mul (μ' μ ν : Measure G)
   · simp [haarScalarFactor, hG]
   -- Fix some nonzero continuous function with compact support `g`.
   obtain ⟨⟨g, g_cont⟩, g_comp, g_nonneg, g_one⟩ :
-    ∃ (g : C(G, ℝ)), HasCompactSupport g ∧ 0 ≤ g ∧ g 1 ≠ 0 := exists_continuous_nonneg_pos 1
+  ∃ (g : C(G, ℝ)), HasCompactSupport g ∧ 0 ≤ g ∧ g 1 ≠ 0 := exists_continuous_nonneg_pos 1
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/Haar/Unique.lean:369]: I think I prefer the previous spacing.

File: Mathlib/MeasureTheory/Function/LocallyIntegrable.lean (hunk 6 above)
[the remark this answers is not in the document]
Comment (sgouezel) [reply Mathlib/MeasureTheory/Function/LocallyIntegrable.lean:7]: At least for the first lemma, I think all the topological imports are already there in `Bochner.lean`. So that looks like the right place for it. The second one could for instance go in `SetIntegral.lean`.

**Review by sgouezel — COMMENTED** [review]
Looks good, thanks!

File: Mathlib/MeasureTheory/Function/LocallyIntegrable.lean (hunk 6 above)
[the remark this answers is not in the document]
Comment (atarnoam) [reply Mathlib/MeasureTheory/Function/LocallyIntegrable.lean:7]: @sgouezel The second lemma doesn't talk about integrals on a subset, so I don't think `SetIntegral` is appropriate for it.

[the remark this answers is not in the document]
Comment (sgouezel) [reply Mathlib/MeasureTheory/Function/LocallyIntegrable.lean:7]: What really matters is to have a file with the right imports, and where it's not crazy to put your lemma in. `SetIntegral` corresponds rather closely to this description (there are several other lemmas in this file which are not talking about integrals on subsets, but whose proof uses lemmas on integrals on subsets, so you don't need a 100% correspondence with the theme of the file).

[the remark this answers is not in the document]
Comment (atarnoam) [reply Mathlib/MeasureTheory/Function/LocallyIntegrable.lean]: @sgouezel Very well. I've moved the lemmas. Does it look OK now?

File: Mathlib/MeasureTheory/Integral/Bochner.lean [hunk 10]
```diff
@@ -1916,6 +1916,12 @@ theorem integral_unique [Unique α] (f : α → E) : ∫ x, f x ∂μ = (μ univ
     ∫ x, f x ∂μ = ∫ _, f default ∂μ := by congr with x; congr; exact Unique.uniq _ x
     _ = (μ univ).toReal • f default := by rw [integral_const]
 
+theorem integral_pos_of_integrable_nonneg_nonzero [TopologicalSpace α] [Measure.IsOpenPosMeasure μ]
+    {f : α → ℝ} {x : α} (f_cont : Continuous f) (f_int : Integrable f μ) (f_nonneg : 0 ≤ f)
+    (f_x : f x ≠ 0) : 0 < (∫ x, f x ∂μ) :=
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/Bochner.lean:1921]:
```suggestion
    (f_x : f x ≠ 0) : 0 < ∫ x, f x ∂μ :=
```

File: Mathlib/MeasureTheory/Integral/SetIntegral.lean [hunk 11]
```diff
@@ -945,6 +945,20 @@ end ContinuousSetIntegral
...
 
+section OpenPos
+
+open Measure
+
+variable [TopologicalSpace X] [OpensMeasurableSpace X] {μ : Measure X} [IsOpenPosMeasure μ]
+
+theorem Continuous.integral_pos_of_hasCompactSupport_nonneg_nonzero [IsFiniteMeasureOnCompacts μ]
+    {f : X → ℝ} {x : X} (f_cont : Continuous f) (f_comp : HasCompactSupport f) (f_nonneg : 0 ≤ f)
+    (f_x : f x ≠ 0) : 0 < (∫ x, f x ∂μ) :=
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/SetIntegral.lean:956]:
```suggestion
    (f_x : f x ≠ 0) : 0 < ∫ x, f x ∂μ :=
```

File: Mathlib/MeasureTheory/Measure/Haar/Unique.lean (hunk 9 above)
Comment (sgouezel) [reply Mathlib/MeasureTheory/Measure/Haar/Unique.lean:370]: I still think I prefer the previous spacing. Could you please revert your change here?

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!
